*
*******************************************
*
*1N4148
*
*NXP Semiconductors
*
*High-speed diodes
*
*
*
*
* 
*
*
*
*
*
*
*VRRM = 100V
*IFRM = 450 mA 
*trr  = 4ns
*
*
*Package pinning does not match Spice model pinning.
*Package: SOD 27
*
*Package Pin 1 : Cathode
*Package Pin 2 : Anode
*
*
*
*
*Simulator: PSPICE
*
*******************************************
*#
.SUBCKT 1N4148 1 2 
*
* The resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 5.827E+9 
D1 1 2 1N4148
*
.MODEL 1N4148 D 
+ IS = 4.352E-9 
+ N = 1.906 
+ BV = 110 
+ IBV = 0.0001 
+ RS = 0.6458 
+ CJO = 7.048E-13 
+ VJ = 0.869 
+ M = 0.03 
+ FC = 0.5 
+ TT = 3.48E-9 
.ENDS
*
*
**********************************************************
*
* BC807-25
*
* NXP Semiconductors
*
* General purpose PNP transistor
* IC   = 500 mA
* VCEO = 45 V 
* hFE  = 160 - 400 @ 1V/100mA
* 
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 23
* 
* Package Pin 1: Base
* Package Pin 2: Emitter
* Package Pin 3: Collector
* 
*
* 
* Simulator: Spice 2        
*
**********************************************************
*#
.MODEL QBC807-25 PNP
+     IS=1.08E-13
+     NF=0.99
+     ISE=2.713E-14
+     NE=1.4
+     BF=385.7
+     IKF=0.3603
+     VAF=31.29
+     NR=0.9849
+     ISC=5.062E-13
+     NC=1.295
+     BR=20.57
+     IKR=0.054
+     VAR=11.62
+     RB=1
+     IRB=1E-06
+     RBM=0.5
+     RE=0.1415
+     RC=0.2623
+     XTB=0
+     EG=1.11
+     XTI=3
+     CJE=5.114E-11
+     VJE=0.8911
+     MJE=0.4417
+     TF=7.359E-10
+     XTF=1.859
+     VTF=3.813
+     ITF=0.4393
+     PTF=0
+     CJC=2.656E-11
+     VJC=0.62
+     MJC=0.4836
+     XCJC=0.459
+     TR=5.00E-08
+     CJS=0
+     VJS=0.75
+     MJS=0.333
+     FC=0.99
*##
**
**********************************************************
*
* BC817-25
*
* NXP Semiconductors
*
* General purpose NPN transistor
* IC   = 500 mA
* VCEO = 45 V 
* hFE  = 160 - 400 @ 1V/100mA
* 
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 23
* 
* Package Pin 1: Base
* Package Pin 2: Emitter
* Package Pin 3: Collector
* 
*
* 
* Simulator: Spice 2        
*
**********************************************************
*# 
.MODEL QBC817-25 NPN
+    IS = 9.198E-14
+    NF = 1.003
+    ISE = 4.468E-16
+    NE = 1.65
+    BF = 338.8 
+    IKF = 0.4913
+    VAF = 107.9
+    NR = 1.002
+    ISC = 5.109E-15
+    NC = 1.071 
+    BR = 29.48
+    IKR = 0.193
+    VAR = 25
+    RB = 1
+    IRB = 1000
+    RBM = 1 
+    RE = 0.2126
+    RC = 0.143
+    XTB = 0
+    EG = 1.11
+    XTI = 3
+    CJE = 3.825E-11 
+    VJE = 0.7004
+    MJE = 0.364
+    TF = 5.229E-10
+    XTF = 219.7
+    VTF = 3.502 
+    ITF = 7.257
+    PTF = 0
+    CJC = 1.27E-11
+    VJC = 0.4431
+    MJC = 0.3983 
+    XCJC = 0.4555
+    TR = 7E-11
+    CJS = 0
+    VJS = 0.75
+    MJS = 0.333
+    FC = 0.905
*##
**
**********************************************************
*
* BC846B
*
* NXP Semiconductors
*
* General purpose NPN transistor
* IC   = 100 mA
* VCEO = 65 V 
* hFE  = 110 - 450 @ 5V/2mA
* 
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 23
* 
* Package Pin 1: Base
* Package Pin 2: Emitter
* Package Pin 3: Collector
* 
*
* 
* Simulator: Spice 2        
*
**********************************************************
*#
.MODEL QBC846B NPN
+     IS = 1.822E-14 
+     NF = 0.9932 
+     ISE = 2.894E-16 
+     NE = 1.4 
+     BF = 324.4 
+     IKF = 0.109 
+     VAF = 82 
+     NR = 0.9931 
+     ISC = 9.982E-12 
+     NC = 1.763 
+     BR = 8.29 
+     IKR = 0.09 
+     VAR = 17.9 
+     RB = 10 
+     IRB = 5E-06 
+     RBM = 5 
+     RE = 0.649 
+     RC = 0.7014 
+     XTB = 0 
+     EG = 1.11 
+     XTI = 3 
+     CJE = 1.244E-11 
+     VJE = 0.7579 
+     MJE = 0.3656 
+     TF = 4.908E-10 
+     XTF = 9.51 
+     VTF = 2.927 
+     ITF = 0.3131 
+     PTF = 0 
+     CJC = 3.347E-12 
+     VJC = 0.5463 
+     MJC = 0.391 
+     XCJC = 0.6193 
+     TR = 9E-08 
+     CJS = 0 
+     VJS = 0.75 
+     MJS = 0.333 
+     FC = 0.979
*##
**
**********************************************************
*
* BC856B
*
* NXP Semiconductors
*
* General purpose PNP transistor
* IC   = 100 mA
* VCEO = 65 V 
* hFE  = 125 - 250 @ 5V/2mA
* 
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 23
* 
* Package Pin 1: Base
* Package Pin 2: Emitter
* Package Pin 3: Collector
* 
*
* 
* Simulator: Spice 2       
*
**********************************************************
*#
.MODEL QBC856B PNP 
+     IS = 2.014E-14 
+     NF = 0.9974 
+     ISE = 6.578E-15 
+     NE = 1.45 
+     BF = 315.3 
+     IKF = 0.079 
+     VAF = 39.15 
+     NR = 0.9952 
+     ISC = 1.633E-14 
+     NC = 1.15 
+     BR = 8.68 
+     IKR = 0.09 
+     VAR = 9.5 
+     RB = 10 
+     IRB = 5E-06 
+     RBM = 5E-06 
+     RE = 0.663 
+     RC = 0.718 
+     XTB = 0 
+     EG = 1.11 
+     XTI = 3 
+     CJE = 1.135E-11 
+     VJE = 0.7071 
+     MJE = 0.3808 
+     TF = 6.546E-10 
+     XTF = 5.387 
+     VTF = 6.245 
+     ITF = 0.2108 
+     PTF = 0 
+     CJC = 6.395E-12 
+     VJC = 0.4951 
+     MJC = 0.44 
+     XCJC = 0.6288 
+     TR = 5.5E-08 
+     CJS = 0 
+     VJS = 0.75 
+     MJS = 0.333  
+     FC = 0.9059
*##
**
*******************************************
*
*BZX84-C10
*
*NXP Semiconductors
*
*Voltage regulator diode
*
*
*
*
* 
*
*IR    = 200nA @ VR = 7V
*IZSM  = 3A    @ tp = 100µs
*VZmax = 10,6V @ IZ = 5mA
*
*
*
*
* 
*
*
*Package pinning does not match Spice model pinning.
*Package: SOT23
*
*Package Pin 1: Anode
*Package Pin 2: not connected
*Package Pin 3: Cathode
*
*
*
*Simulator: PSPICE
*
*******************************************
*#
.MODEL BZX84-C10 D
+ IS=110.88E-18
+ N=.92657
+ RS=.85899
+ IKF=149.75
+ CJO=57.292E-12
+ M=.33236
+ VJ=.67995
+ ISR=49.142E-12
+ BV=10.124
+ IBV=.72438
+ TT=973.82E-9
*##
*
*
*******************************************
*
*BZX84-C2V7
*
*NXP Semiconductors
*
*Voltage regulator diode
*
*
*
*
* 
*
*IR    = 20µA @ VR = 1V
*IZSM  = 6A   @ tp = 100µs
*VZmax = 2,9V @ IZ = 5mA
*
*
*
*
* 
*
*
*Package pinning does not match Spice model pinning.
*Package: SOT23
*
*Package Pin 1: Anode
*Package Pin 2: not connected
*Package Pin 3: Cathode
*
*
*
*Simulator: PSPICE
*
*******************************************
*#
.MODEL BZX84-C2V7 D
+ IS=110.88E-18
+ N=.92657
+ RS=.85899
+ IKF=147.68
+ CJO=344.69E-12
+ M=.31964
+ VJ=.72935
+ ISR=1.5159E-6
+ BV=2.7639
+ IBV=69.770E-3
+ TT=17.889E-9
*##
*
*
*******************************************
*
*BZX84-C5V1
*
*NXP Semiconductors
*
*Voltage regulator diode
*
*
*
*
* 
*
*IR    = 2µA  @ VR = 2V
*IZSM  = 6A   @ tp = 100µs
*VZmax = 5,4V @ IZ = 5mA
*
*
*
*
* 
*
*
*Package pinning does not match Spice model pinning.
*Package: SOT23
*
*Package Pin 1: Anode
*Package Pin 2: not connected
*Package Pin 3: Cathode
*
*
*
*Simulator: PSPICE
*
*******************************************
*#
.MODEL BZX84-C5V1 D
+ IS=2.6665E-18
+ N=.82284
+ RS=.51617
+ IKF=11.760E-3
+ CJO=232.29E-12
+ M=.35004
+ VJ=.79587
+ ISR=150.40E-12
+ BV=5.1760
+ IBV=.10454
+ TT=43.858E-9
*##
*
*
*******************************************
*
*BZX84-C5V6
*
*NXP Semiconductors
*
*Voltage regulator diode
*
*
*
*
* 
*
*IR    = 1µA @ VR = 2V
*IZSM  = 6A  @ tp = 100µs
*VZmax = 6V  @ IZ = 5mA
*
*
*
*
* 
*
*
*Package pinning does not match Spice model pinning.
*Package: SOT23
*
*Package Pin 1: Anode
*Package Pin 2: not connected
*Package Pin 3: Cathode
*
*
*
*Simulator: PSPICE
*
*******************************************
*#
.MODEL BZX84-C5V6 D
+ IS=2.6665E-18
+ N=.82284
+ RS=.51617
+ IKF=11.760E-3
+ CJO=137.10E-12
+ M=.34532
+ VJ=.72637
+ ISR=1.2666E-9
+ BV=5.7078
+ IBV=.35715
+ TT=78.483E-9
*##
*
*
*******************************************
*
*BZX84-C6V2
*
*NXP Semiconductors
*
*Voltage regulator diode
*
*
*
*
* 
*
*IR    = 3µA  @ VR = 4V
*IZSM  = 6A   @ tp = 100µs
*VZmax = 6,6V @ IZ = 5mA
*
*
*
*
* 
*
*
*Package pinning does not match Spice model pinning.
*Package: SOT23
*
*Package Pin 1: Anode
*Package Pin 2: not connected
*Package Pin 3: Cathode
*
*
*
*Simulator: PSPICE
*
*******************************************
*#
.MODEL BZX84-C6V2 D
+ IS=110.88E-18
+ N=.92657
+ RS=.85899
+ IKF=149.75
+ CJO=108.46E-12
+ M=.34501
+ VJ=.72044
+ ISR=48.986E-9
+ BV=6.3329
+ IBV=1.0062
+ TT=121.76E-9
*##
*
*
*******************************************
*
*BZX84-C6V8
*
*NXP Semiconductors
*
*Voltage regulator diode
*
*
*
*
* 
*
*IR    = 2µA  @ VR = 4V
*IZSM  = 6A   @ tp = 100µs
*VZmax = 7,2V @ IZ = 5mA
*
*
*
*
* 
*
*
*Package pinning does not match Spice model pinning.
*Package: SOT23
*
*Package Pin 1: Anode
*Package Pin 2: not connected
*Package Pin 3: Cathode
*
*
*
*Simulator: PSPICE
*
*******************************************
*#
.MODEL BZX84-C6V8 D
+ IS=110.88E-18
+ N=.92657
+ RS=.85899
+ IKF=149.75
+ CJO=93.867E-12
+ M=.35256
+ VJ=.75339
+ ISR=522.33E-12
+ BV=6.9329
+ IBV=1.0062
+ TT=231.41E-9
*##
*
*
*******************************************
*
*BZX84-C8V2
*
*NXP Semiconductors
*
*Voltage regulator diode
*
*
*
*
* 
*
*IR    = 700nA @ VR = 5V
*IZSM  = 4A    @ tp = 100µs
*VZmax = 8,7V  @ IZ = 5mA
*
*
*
*
* 
*
*
*Package pinning does not match Spice model pinning.
*Package: SOT23
*
*Package Pin 1: Anode
*Package Pin 2: not connected
*Package Pin 3: Cathode
*
*
*
*Simulator: PSPICE
*
*******************************************
*#
.MODEL BZX84-C8V2 D
+ IS=110.88E-18
+ N=.92657
+ RS=.85899
+ IKF=149.75
+ CJO=54.185E-12
+ M=.33443
+ VJ=.66823
+ ISR=146.75E-12
+ BV=8.3329
+ IBV=1.0062
+ TT=2.7700E-6
*##
*
.SUBCKT irfru120n 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Apr 24, 96
* Model format: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.69404 LAMBDA=0.0155415 KP=12.7625
+CGSO=2.79242e-06 CGDO=2.00936e-07
RS 8 3 0.139622
D1 3 1 MD
.MODEL MD D IS=5.16128e-13 RS=0.0141799 N=1.05873 BV=100
+IBV=0.00025 EG=1.2 XTI=3.00467 TT=0
+CJO=1.91217e-10 VJ=0.819686 M=0.490741 FC=0.5
RDS 3 1 4e+06
RD 9 1 0.0173488
RG 2 7 2.18034
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=4.34317e-10 VJ=0.5 M=0.637951 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.442638 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 1.00927e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.442638
.ENDS
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Oct 30, 02
* MODEL FORMAT: PSpice
.MODEL Qmjd31c npn
+IS=9.06202e-11 BF=3418.7 NF=1.17603 VAF=29.2393
+IKF=0.108267 ISE=5.37193e-07 NE=4 BR=367.353
+NR=5 VAR=1.631 IKR=1.15207 ISC=1.15754e-09
+NC=1.49179 RB=22.4853 IRB=0.00220937 RBM=1e-12
+RE=0.0001 RC=0.138633 XTB=9.99997e-13 XTI=1e-12
+EG=1.05 CJE=3.73889e-10 VJE=0.67672 MJE=0.575056
+TF=1e-08 XTF=3.4926 VTF=12.6615 ITF=0.0523952
+CJC=3.5251e-10 VJC=0.884306 MJC=0.473486 XCJC=0.1
+FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+TR=3.29803e-06 PTF=0 KF=0 AF=1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Aug 31, 11
* MODEL FORMAT: PSpice
.MODEL Qmjd32ct4g pnp(IS=3.63152e-13 BF=272.001 NF=0.981175 VAF=8.02311 IKF=0.255979 ISE=1.39581e-09 NE=2.64418 BR=26.8791 NR=0.990094 VAR=38.8632 IKR=2.55979 ISC=2.54712e-13 NC=1.09617 RB=210.108 IRB=1.31675e-05 RBM=1e-05 RE=0.0329597 RC=0.164799 XTB=0.709265 XTI=4.43052 EG=1.15135 CJE=2.01825e-10 VJE=0.360096 MJE=0.350357 TF=3.62202e-09 XTF=276.075 VTF=0.608188 ITF=0.00777951 CJC=1.18774e-10 VJC=0.694849 MJC=0.382715 XCJC=0.778775 FC=0.9 CJS=0 VJS=0.75 MJS=0.5 TR=2.02957e-06 PTF=0 KF=0 AF=1)

**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Aug 23, 11
* MODEL FORMAT: PSpice
.MODEL Jmmbfj177lt1g pjf
+VTO=-1.2599 BETA=0.006919 LAMBDA=0.0272649 RD=58.8254
+RS=35.9102 IS=1.3336e-11 CGS=1.61697e-11 CGD=1.49992e-11
+PB=0.363701 FC=0.5 KF=1e-20 AF=0.2**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Apr 14, 98
* MODEL FORMAT: PSpice
.MODEL Jmmbfj309lt1 njf
+VTO=-1.7 BETA=0.0055601 LAMBDA=0.02184 RD=0.1
+RS=0.1 IS=1.3336e-12 CGS=5.07189e-12 CGD=5.35152e-12
+PB=2.41896 FC=0.5 KF=9.99982e-21 AF=0.200092
